* source SCHEMATIC
Q_Q4         N101123 N101033 N100887 QBC856B 
D_Led2         N101159 0 SMLS14BET 
R_R9         0 N101673  51 TC=0,0 
R_R7         N100899 N100499  1k TC=0,0 
R_R12         0 N101667  150 TC=0,0 
D_D2         0 N101123 BZX84-C2V7 
Q_Q7         N100873 N100447 N100451 QBC846B 
Q_Q5         N101129 N101033 N100893 QBC856B 
R_RL         0 N100451  100 TC=0,0 
X_P2         0 N101709 N101709 POT PARAMS: SET=0.5 VALUE=10k
Q_Q10         N100873 N101481 0 QBC846B 
Q_Q13         N100899 N101123 N1015551 QBC846B 
R_R10         N101153 N100451  910 TC=0,0 
R_Rsc1         N100451 N100837  4.7 TC=0,0 
R_R4         N100887 N100499  68 TC=0,0 
Q_Q11         0 N101117 N101033 QBC856B 
Q_Q9         0 N101443 N101129 QBC856B 
R_Rsc2         N100451 N100447  4.7 TC=0,0 
R_R3         N100881 N100499  510 TC=0,0 
Q_Q12         N100873 N101709 0 QBC846B 
R_R11         N101667 N101443  4.7k TC=0,0 
D_D1         N101249 N100499 BZX84-C2V7 
R_R6         N100905 N100499  470 TC=0,0 
R_R14         N101709 N101679  1k TC=0,0 
Q_Q8         N101481 N101123 N101129 QBC856B 
V_V1         N100499 0 8
Q_Q1         N100447 N100765 N100561 QMJD32CT4G 
R_Rsc4         N100837 N100447  1 TC=0,0 
R_Rled2         N101159 N100451  100 TC=0,0 
Q_Q2         N100765 N100873 N100447 QBC846B 
Q_Q6         N100873 N101033 N100905 QBC856B 
R_R0         0 N101249  680 TC=0,0 
R_Rsc3         N100451 N100447  4.7 TC=0,0 
R_R5         N100893 N100499  82 TC=0,0 
R_R8         N101673 N101481  220 TC=0,0 
R_R13         N101679 N1015551  15k TC=0,0 
R_R1         N101249 N101117  1k TC=0,0 
X_P1         N101443 N101443 N101153 POT PARAMS: SET=0 VALUE=5k
Q_Q3         N101117 N101033 N100881 QBC856B 
R_R2         N100561 N100499  1 TC=0,0 
